US05866513
e. Preparation of 2,4-Dimethoxy-3-ethylbenzaldehyde (aldehyde for Example 49)
To 10 mmol of dienophile in either dioxane or toluene was added 8-20 equivalents of diene (butadiene, substituted butadiene or butadiene sulfone) and a catalytic amount of radical initiator (either 3-t-butyl-4-hydroxy-5-methylphenyl sulfide or hydroquinone). This mixture was heated in a pressure vessel at 130° C. for 2-10 days. After cooling to room temperature and releasing the remaining pressure the residue was quenched with water and extracted with ethyl ether. The organic extracts were combined, dried, filtered and evaporated to dryness in vacuo and then chromatographed using an appropriate solvent system. Table III gives specific reaction conditions and yields for each example.

reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 3-t-butyl-4-hydroxy-5-methylphenyl sulfide | C(C)(C)(C)C=1C=C(C=C(C1O)C)SC1=CC(=C(C(=C1)C)O)C(C)(C)C | C22H30O2S
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dimethoxy-3-ethylbenzaldehyde | COC1=C(C=O)C=CC(=C1CC)OC | C11H14O3
